US04952733
Preparation of 1,3,5-triamino-2,4,6-trinitrobenzene (TATB) from 3,5-dichloroanisole. Nitration of 3,5-dichloroanisole under relatively mild conditions gave 3,5-dichloro-2,4,6-trinitroanisole in high yield and purity. Ammonolysis of this latter compound gave the desired TATB. Another route to TATB was through the treatment of the 3,5-dichloro-2,4,6-trinitroanisole with thionyl chloride and dimethylformamide to yield 1,3,5-trichloro-2,4,6-trinitrobenzene. Ammonolysis of this product produced TATB.

reactant | TATB | NC1=C(C(=C(C(=C1[N+](=O)[O-])N)[N+](=O)[O-])N)[N+](=O)[O-] | C6H6N6O6
reactant | 3,5-dichloro-2,4,6-trinitroanisole | ClC=1C(=C(C(=C(C1[N+](=O)[O-])Cl)[N+](=O)[O-])OC)[N+](=O)[O-] | C7H3Cl2N3O7
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1,3,5-trichloro-2,4,6-trinitrobenzene | ClC1=C(C(=C(C(=C1[N+](=O)[O-])Cl)[N+](=O)[O-])Cl)[N+](=O)[O-] | C6Cl3N3O6
